US07608629B2
2-Chloro-N-[3-(1-ethyl-piperidin-4-yloxy)-phenyl]-4-fluoro-benzamide hydrochloride
Using a method similar to Example 5, using 2-chloro-4-fluoro-benzoyl chloride (0.054 mL, 0.420 mmol) and 3-(1-ethyl-piperidin-4-yloxy)-phenylamine (preparation 29) gives the title compound as the free base (131 mg, 91%). Following a method similar to Example 2 gives the title compound as the hydrochloride salt (130 mg, white solid). Mp: 91° C.; mass spectrum (free base, ion spray): m/z=377.2 (M+1); 1H NMR (free base, CDCl3): 8.14 (bs, N—H), 7.68 (dd, J=6.1 Hz, 8.7 Hz, 1H), 7.40 (bs, 1H), 7.21 (t, J=8.1 Hz, 1H), 7.14 (dd, J=2.5 Hz, 8.3 Hz, 1H), 7.06-7.01 (m, 2H), 6.70 (dd, J=2.4 Hz, 8.3 Hz, 1H), 4.38-4.31 (m, 1H), 2.75-2.67 (bm, 2H), 2.41 (q, J=7.1 Hz, 2H), 2.33-2.24 (bm, 2H), 2.04-1.97 (bm, 2H), 1.87-1.78 (bm, 2H), 1.08 (t, J=7.4 Hz, 3H); Analysis calculated for C20H23Cl2FN2O2.0.25H2O: C, 57.49; H, 5.67; N, 6.70. Found C, 57.45; H, 5.31; N, 6.59.

reactant | 2-chloro-4-fluoro-benzoyl chloride | 0.420 mmol, 0.054 mL | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
reactant | 3-(1-ethyl-piperidin-4-yloxy)-phenylamine | C(C)N1CCC(CC1)OC=1C=C(C=CC1)N | C13H20N2O
product | 2-Chloro-N-[3-(1-ethyl-piperidin-4-yloxy)-phenyl]-4-fluoro-benzamide hydrochloride | Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)OC2CCN(CC2)CC)C=CC(=C1)F | InChI=1S/C20H22ClFN2O2.ClH/c1-2-24-10-8-16(9-11-24)26-17-5-3-4-15(13-17)23-20(25)18-7-6-14(22)12-19(18)21;/h3-7,12-13,16H,2,8-11H2,1H3,(H,23,25);1H
